US04686235
A solution of 1.00 g (2.79 mmol) of 2-ethoxycarbonyl-1-methyl-4-[2-(3-oxapropyloxy)-5-methoxyphenyl]propenylpyrrole in 5 ml of 1:1 aqueous trifluoroacetic acid was stirred at 0° for 1 hour, then at room temperature for 1 hour. The solution was partitioned between ether and water and the ether layer was washed with 3 portions of water. The ether extract was dried (Na2SO4), concentrated, and chromatographed on silica using 20% ethylacetatehexane to afford 0.68 g (77%) 2-ethoxycarbonyl-1-methyl-4-(2-hydroxy-5-methoxyphenyl)propenylpyrrole of a colorless glass.

reactant | 2-ethoxycarbonyl-1-methyl-4-[2-(3-oxapropyloxy)-5-methoxyphenyl]propenylpyrrole | 2.79 mmol, 1.00 g | C(C)OC(=O)C=1N(C=C(C1)C=CCC1=C(C=CC(=C1)OC)OCCO)C | C20H25NO5
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-ethoxycarbonyl-1-methyl-4-(2-hydroxy-5-methoxyphenyl)propenylpyrrole | 0.68 g, 77% | C(C)OC(=O)C=1N(C=C(C1)C=CCC1=C(C=CC(=C1)OC)O)C | C18H21NO4
